US07781483B2
To a solution of (3R*,4R*)-3,4-epoxy-2,2-dimethyl-7-nitro-3-chromanol (2.07 g, 9.37 mmol) in dioxane (4 mL), lithium perchlorate (997 mg, 9.37 mmol) and 4-fluorophenethyl amine (1.47 mL, 11.3 mmol) were added, and the resulting solution was stirred at 70° C. for 3.5 hours under nitrogen atmosphere. The reaction solution was diluted with ethyl acetate, washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution. Then, the organic phase was dried over magnesium sulfate and concentrated under a reduced pressure. The resulting residue was diluted with ethanol, and a solution of maleic acid (1.20 g, 10.3 mmol) in ethanol was added dropwise thereto. The resulting solid was filtered off, and washed with ethyl acetate. The resulting solid was suspended in ethyl acetate, the resulting suspension was neutralized with 1 mol/L sodium hydroxide aqueous solution and washed with saturated sodium chloride solution. After drying the organic phase over magnesium sulfate, it was dried under a reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain (3R*,4S*)-4-{[2-(4-fluorophenyl)ethyl]amino}-2,2-dimethyl-7-nitro-3-chromanol (yield: 81%).

reactant | (3R*,4R*)-3,4-epoxy-2,2-dimethyl-7-nitro-3-chromanol | 9.37 mmol, 2.07 g | O1[C@]2(C(OC3=CC(=CC=C3[C@H]21)[N+](=O)[O-])(C)C)O | C11H11NO5
reactant | lithium perchlorate | 9.37 mmol, 997 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | 4-fluorophenethyl amine | 11.3 mmol, 1.47 mL | FC1=CC=C(CCN)C=C1 | C8H10FN
reactant | maleic acid | 10.3 mmol, 1.20 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | (3R*,4S*)-4-{[2-(4-fluorophenyl)ethyl]amino}-2,2-dimethyl-7-nitro-3-chromanol | yield: 81% | FC1=CC=C(C=C1)CCN[C@@H]1[C@H](C(OC2=CC(=CC=C12)[N+](=O)[O-])(C)C)O | C19H21FN2O4
